US07135575B2
Preparation of (2-aminooxy-ethyl)-carbamic acid t-butyl ester
[2-(1,3-dioxo-1,3-dihydroisoindol-2-yloxy)-ethyl]-carbamic acid tert-butyl ester (0.842 g, 2.749 mmol) was dissolved in 20 ml of CH2Cl2 and methylhydrazine (150 μL, 2.776 mmol) was added at room temperature. As soon as methylhydrazine was added, a white precipitate was formed. The reaction was stirred at room temperature for 72 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to provide 0.496 g of a viscous oil (102% yield). The crude material was used without further purification.

reactant | [2-(1,3-dioxo-1,3-dihydroisoindol-2-yloxy)-ethyl]-carbamic acid tert-butyl ester | 2.749 mmol, 0.842 g | C(C)(C)(C)OC(NCCON1C(C2=CC=CC=C2C1=O)=O)=O | C15H18N2O5
reactant | methylhydrazine | 2.776 mmol, 150 μL | CNN | CH6N2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | (2-aminooxy-ethyl)-carbamic acid t-butyl ester | 0.496 g, 102% yield | C(C)(C)(C)OC(NCCON)=O | C7H16N2O3
